### PR TITLE
Erdős Problem 138

### LINKED ISSUE #377: Erdős Problem 138
### What is the conjecture
    
https://www.erdosproblems.com/138

  Let the van der Waerden number $W(k)$ be such that whenever $N\geq W(k)$ and $\\{1,\ldots,N\\}$ is $2$-coloured there must exist a monochromatic $k$-term arithmetic progression. Improve the bounds for $W(k)$ - for example, prove that $W(k)^{1/k}\to \infty$.

Status: open

### PR DESCRIPTION
**Pull request by mo271**
fixes #377

### CODE REVIEW

File: FormalConjectures/ErdosProblems/138.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+@[category research solved, AMS 11]
+theorem monoAP_guarantee_set_nonempty (r k) : (monoAP_guarantee_set r k).Nonempty := by
+  sorry
+
+/--
+The **van der Waerden number**, is the smallest integer `N` such that any `r`-coloring of
+`{1, ..., N}` is guaranteed to contain a monochromatic arithmetic progression of
+length `k`. It is defined as the infimum of the (non-empty) set of all such numbers `N`.
+-/
+noncomputable def monoAPNumber (r k : ℕ) : ℕ := sInf (monoAP_guarantee_set r k)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/138.lean:60]: ~~I think with the current definition this is always `0` since `0` always lies in the set defined above?~~
(the claim I made is false)

File: FormalConjectures/ErdosProblems/138.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+@[category research open, AMS 11]
+theorem erdos_138 : atTop.Tendsto (fun k => ((W k) : ℝ)^(1/(k : ℝ))) atTop ↔ answer(sorry) := by
+  sorry
+
+
+/--
+When $p$ is prime Berlekamp [Be68] has proved $W(p+1) ≥ p^{2^p}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_138.variants.prime (p : ℕ) [hp : Fact p.Prime] : p^(2^ p) ≤ W (p + 1) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/138.lean]: This is a little closer to the Mathlib convention (unless the `Fact` is needed for the statement to compile?)
```suggestion
theorem erdos_138.variants.prime (p : ℕ) (hp : p.Prime) : p^(2^ p) ≤ W (p + 1) := by
```

File: FormalConjectures/ErdosProblems/138.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+@[category test, AMS 11]
+theorem monoAPNumber_two_two : W 2 = 3 := by
+  sorry
+
+/--
+In [Er80] Erdős asks whether
+$$ \lim_{k \to \infty} (W(k))^{1/k} = \infty $$
+-/
+@[category research open, AMS 11]
+theorem erdos_138 : atTop.Tendsto (fun k => ((W k) : ℝ)^(1/(k : ℝ))) atTop ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/138.lean]:
```suggestion
theorem erdos_138 : atTop.Tendsto (fun k => (W k : ℝ)^(1/(k : ℝ))) atTop ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/138.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+theorem erdos_138.variants.quotient :
+    atTop.Tendsto (fun k => ((W (k + 1) : ℚ)/(W k))) atTop ↔ answer(sorry) := by
+  sorry
+
+/--
+In [Er81] Erdős asks whether $W(k+1) - W(k) \to \infty$.
+-/
+@[category research open, AMS 11]
+theorem erdos_138.variants.difference :
+    atTop.Tendsto (fun k => (W (k + 1) - (W k))) atTop ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/138.lean]:
```suggestion
    atTop.Tendsto (fun k => (W (k + 1) - W k)) atTop ↔ answer(sorry) := by
```
